US04804665
8-tert-Butyloxycarbonyl-2-cyanomethyloxy-2,8-diazaspiro[4,5]decane-1,3-dion
To a solution of 8-tert-butyloxycarbonyl-2-hydroxy-2,8-diazaspiro[4,5]decane-1,3-dione (0.56 g) in dimethylformamide (5 ml) was added 88 mg of sodium hydride (60% in oil), and the mixture was stirred for one hour at room temperature. To the mixture was added chloroacetonitrile (140 μl). The whole mixture was stirred for 2 hours at room temperature, to which was added ethyl acetate (30 ml), followed by washing with a saturated aqueous solution of sodium hydrogencarbonate and then with a 10% aqueous solution of citric acid. The organic layer was dried over anhydrous magnesium sulfate, then the solvent was evaporated off. The residue was recrystallized from ethyl acetate-diethyl ether to obtain 0.53 g of a colorless solid, m.p. 138° to 139° C.

reactant | 8-tert-butyloxycarbonyl-2-hydroxy-2,8-diazaspiro[4,5]decane-1,3-dione | 0.56 g | C(C)(C)(C)OC(=O)N1CCC2(CC(N(C2=O)O)=O)CC1 | C13H20N2O5
reactant | sodium hydride | 88 mg | [H-].[Na+]
reactant | chloroacetonitrile | 140 μl | ClCC#N | C2H2ClN
reactant | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 8-tert-Butyloxycarbonyl-2-cyanomethyloxy-2,8-diazaspiro[4,5]decane-1,3-dion | 0.53 g | C(C)(C)(C)OC(=O)N1CCC2(CC(N(C2=O)OCC#N)=O)CC1 | C15H21N3O5
